US08022206B2
7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine
To a solution of 7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-6-nitrofuro[3,2-c]pyridine (40 mg, 0.11 mmol) in EtOH (1 mL) was added Fe powder (24 mg, 0.43 mmol) and 1M HCl (aq.) (0.05 mL, 0.05 mmol). The reaction mixture was stirred at 95° C. for 20 min. After cooled down to room temperature, the reaction mixture was passed through a pad of Celite. The filtrate was concentrated in vacuo and residue was purified by preparative TLC (5% MeOH in DCM) to afford the title compound as a brown oil (25 mg, 68% yield). 1H NMR (CDCl3, 400 MHz): δ=1.86 (d, J=6.60 Hz, 3H), 4.75 (br, s, 2H), 6.55 (q, J=6.97 Hz, 1H), 6.65 (d, J=2.20 Hz, 1H), 7.04 (t, J=8.43 Hz, 1H), 7.27 (dd, J=8.80, 4.77 Hz, 1H), 7.39 (d, J=2.20 Hz, 1H), 8.05 (s, 1H). MS (ES+): m/z 341.03, 343.01 (100) [MH+]. HPLC: tR=2.77 min (ZQ3: polar—5 min).

reactant | 7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-6-nitrofuro[3,2-c]pyridine | 0.11 mmol, 40 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1[N+](=O)[O-])C=CO2 | C15H9Cl2FN2O4
reactant | HCl | 0.05 mmol, 1M, 0.05 mL | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | Fe | 0.43 mmol, 24 mg | [Fe] | Fe
product | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine | 25 mg, 68% yield | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C=CO2 | C15H11Cl2FN2O2
